US08791275B2
(4Z,7Z,10Z,13Z,16Z,19Z)—N—(Pyridin-4-yl)docosa-4,7,10,13,16,19-hexaenamide
Reaction of docosahexaenoic acid (0.10 g, 0.30 mmol) with 4-aminopyridine (0.03 g, 0.30 mmol) was conducted according to the general amide coupling procedure using DCC to obtain the product as a yellow solid (0.11 g, 91%). EIMS m/z: 405 ([M]+).

reactant | docosahexaenoic acid | 0.30 mmol, 0.10 g | C(C=CC=CC=CC=CC=CC=CCCCCCCCCC)(=O)O | C22H32O2
reactant | 4-aminopyridine | 0.30 mmol, 0.03 g | NC1=CC=NC=C1 | C5H6N2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | (4Z,7Z,10Z,13Z,16Z,19Z)—N—(Pyridin-4-yl)docosa-4,7,10,13,16,19-hexaenamide | 0.11 g, 91% | N1=CC=C(C=C1)NC(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)=O | C27H36N2O
